US05693617
a) Boc-L-Leucine-L-Leucine N,O-dimethylhydroxylamide
A mixture of N-Boc-L-leucine-L-leucine (1 g), N,O-dimethylhydroxylamine hydrochloride (423 mg), 1-hydroxybenzotriazole monohydrate (509 mg), and N-methylmorpholine (0.42 mL) was dissolved in DMF (20 mL). 1-Ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride (610 mg) was added at 0° C. for 2 h, then at room temperature for 40 h. The reaction was quenched with water (80 mL) and the mixture was extracted with EtOAc (3×100 mL). The combined organic layers were washed with aqueous 10% HCl, saturated NaHCO3, and brine, then dried over anhydrous MgSO4, filtered, and evaporated to afford the product (923 mg) as a white solid.

reactant | N-Boc-L-leucine L-leucine | 1 g | C(=O)(OC(C)(C)C)N[C@@H](CC(C)C)C(=O)O.N[C@@H](CC(C)C)C(=O)O
reactant | N,O-dimethylhydroxylamine hydrochloride | 423 mg | Cl.CNOC
reactant | 1-hydroxybenzotriazole monohydrate | 509 mg | O.ON1N=NC2=C1C=CC=C2
reactant | N-methylmorpholine | 0.42 mL | CN1CCOCC1 | C5H11NO
reactant | 1-Ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride | 610 mg | Cl.C(C)N=C=NCCCN(C)C
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
product | Boc-L-Leucine L-Leucine N,O-dimethylhydroxylamide | 923 mg | C(=O)(OC(C)(C)C)N[C@@H](CC(C)C)C(=O)O.CN(C([C@@H](N)CC(C)C)=O)OC | InChI=1S/C11H21NO4.C8H18N2O2/c1-7(2)6-8(9(13)14)12-10(15)16-11(3,4)5;1-6(2)5-7(9)8(11)10(3)12-4/h7-8H,6H2,1-5H3,(H,12,15)(H,13,14);6-7H,5,9H2,1-4H3/t8-;7-/m00/s1
